US07230098B2
To a stirring solution of 4-(6-amino-5-benzyloxy-pyridin-3-yl)-benzoic acid methyl ester (10.0 g, 0.03 mol) in EtOH:H2O (95:5, 600 mL) was added Pd/C (15.9 g, 0.015 mol) (the reaction was de-gassed under vacuum). The solution was allowed to stir under an H2 atmosphere for 22 hr. The solution was filtered through wet celite and the celite washed with EtOH. The filtrate was concentrated under vacuum to yield 4-(6-Amino-5-hydroxy-pyridin-3-yl)-benzoic acid methyl ester (2.3 g, 9.3 mmol, 31%). 1H NMR (MeOD, 300 MHz) δ 3.90 (s, 3H), 7.21 (d, 1H, J, 1.9 Hz), 7.62 (d, 2H, J, 8.5 Hz), 7.76 (d, 1H, J, 1.9 Hz), 8.04(d, 2H, J, 8.5 Hz).

reactant | 4-(6-amino-5-benzyloxy-pyridin-3-yl)-benzoic acid methyl ester | 0.03 mol, 10.0 g | COC(C1=CC=C(C=C1)C=1C=NC(=C(C1)OCC1=CC=CC=C1)N)=O | C20H18N2O3
solvent | EtOH H2O | 600 mL | CCO.O
catalyst | Pd/C | 0.015 mol, 15.9 g | [Pd] | Pd
product | 4-(6-Amino-5-hydroxy-pyridin-3-yl)-benzoic acid methyl ester | 9.3 mmol, 2.3 g, 31% | COC(C1=CC=C(C=C1)C=1C=NC(=C(C1)O)N)=O | C13H12N2O3
